US06180636B2
19 mg (0.45 mmol) of lithium chloride and 19.5 mg (0.30 mmol) of sodium azide are added to a solution of 80.9 mg (0.30 mmol) of 4-(3-chloroanilino)-6-cyano-7H-pyrrolo[2,3-d]pyrimidine in 1 ml of methoxyethanol and the mixture is heated to boiling for 6.5 h. The cooled reaction mixture is poured onto water/HCl (conc.) 10:1, the mixture is stirred for 30 min, and the solid is filtered off and washed with water. Dissolving the crystals in THF/isopropanol, partial evaporation to crystallization, filtering off and washing with diethyl ether affords 4-(3-chloroanilino)-6-(tetrazol-5-yl)-7H-pyrrolo[2,3-d]pyrimidine; HPLC: tRet(Grad20)=9.5; TLC-Rf=0.45 (CH2Cl2/methanol=7:1); FAB-MS: (M+H)+=313.

reactant | lithium chloride | 0.45 mmol, 19 mg | [Cl-].[Li+]
reactant | sodium azide | 0.30 mmol, 19.5 mg | [N-]=[N+]=[N-].[Na+]
reactant | 4-(3-chloroanilino)-6-cyano-7H-pyrrolo[2,3-d]pyrimidine | 0.30 mmol, 80.9 mg | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C#N)C=CC1 | C13H8ClN5
solvent | methoxyethanol | 1 ml | COC(C)O | C3H8O2
product | 4-(3-chloroanilino)-6-(tetrazol-5-yl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C3=NN=NN3)C=CC1 | C13H9ClN8
